US05306728
0.81 g of tert-butylacetylene was dissolved in 19 ml of tetrahydrofuran, and 6.1 ml of a 0.55M n-butyllithium-hexane solution was added dropwise with stirring at -78° C. After the mixture was stirred at this temperature for 1 hour, 2.2 g of 3-bromo-1-(2-tetrahydropyranyloxy)propane was added. The solution was warmed to the room temperature, and then heated at 80° C. with stirring for 8 hours. The reaction mixture was poured into the ice water, and ethyl ether was added. The organic layer separated was worked up in a customary manner, and the product was purified by silica gel column chromatography [hexane / ethyl acetate=20 /1] to give 0.90 g of 6,6-dimethyl-1-(2-tetrahydropyranyloxy)-4-heptyne.

reactant | tert-butylacetylene | 0.81 g | C(C)(C)(C)C#C | C6H10
reactant | 3-bromo-1-(2-tetrahydropyranyloxy)propane | 2.2 g | BrCCCOC1OCCCC1 | C8H15BrO2
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 19 ml | O1CCCC1 | C4H8O
product | 6,6-dimethyl-1-(2-tetrahydropyranyloxy)-4-heptyne | 0.90 g | CC(C#CCCCOC1OCCCC1)(C)C | C14H24O2
